US05284863
Preparation of 3-Bromo-5-(p-chlorophenyl)-4-[(trifluoromethyl)sulfonyl]pyrrole-2-carbonitrile
A solution of 5-(p-chlorophenyl)-4-[(trifluoromethyl)sulfonyl]pyrrole-2-carbonitrile (0.87 g, 0.0026 mol) in dioxane is cooled, treated with bromine (0.46 g, 0.00286 mol), stirred at room temperature for two hours, treated with additional bromine (0.21 g, 0.0013 mol), stirred overnight at room temperature, poured into water and extracted with ethyl acetate. The combined organic extracts are washed with water, saturated sodium meta-bisulfite solution and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a yellow syrup. Flash chromatography of the syrup using silica gel and a 1:4 ethyl acetate/hexanes solution gives the title product as a tan solid (0.27 g, mp 170°-185° C.) which is identified by 1HNMR spectral analysis.

reactant | 5-(p-chlorophenyl)-4-[(trifluoromethyl)sulfonyl]pyrrole-2-carbonitrile | 0.0026 mol, 0.87 g | ClC1=CC=C(C=C1)C1=C(C=C(N1)C#N)S(=O)(=O)C(F)(F)F | C12H6ClF3N2O2S
reactant | bromine | 0.00286 mol, 0.46 g | BrBr | Br2
reactant | bromine | 0.0013 mol, 0.21 g | BrBr | Br2
reactant | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-Bromo-5-(p-chlorophenyl)-4-[(trifluoromethyl)sulfonyl]pyrrole-2-carbonitrile | 0.27 g | BrC1=C(NC(=C1S(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)Cl)C#N | C12H5BrClF3N2O2S
